US09446039B2
To determine the specificity of the (S)-enantiomer of crizotinib to target the MTH1 protein in cells, a chemical proteomics drug pull-down was performed using shotgun mass spectrometry as described above. For immobilization of (S)-crizotinib, derivatisation of (S)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)-5-(1-(piperidin-4-yl)-1H-pyrazol-3-yl)pyridin-2-amine was carried out as described for CeMM-146 to yield (S)-5-(1-(1-(3-aminopropyl)piperidin-4-yl)-1H-pyrazol-3-yl)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-2-amine (FIG. 27).

reactant | crizotinib | C[C@H](C=1C(=CC=C(C1Cl)F)Cl)OC=2C=C(C=NC2N)C=3C=NN(C3)C4CCNCC4 | C21H22Cl2FN5O
reactant | (S)-crizotinib | C[C@@H](C1=C(C=CC(=C1Cl)F)Cl)OC2=C(N=CC(=C2)C3=CN(N=C3)C4CCNCC4)N | C21H22Cl2FN5O
reactant | (S)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)-5-(1-(piperidin-4-yl)-1H-pyrazol-3-yl)pyridin-2-amine | ClC1=C(C(=CC=C1F)Cl)[C@H](C)OC=1C(=NC=C(C1)C1=NN(C=C1)C1CCNCC1)N | C21H22Cl2FN5O
product | (S)-5-(1-(1-(3-aminopropyl)piperidin-4-yl)-1H-pyrazol-3-yl)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-2-amine | NCCCN1CCC(CC1)N1N=C(C=C1)C=1C=C(C(=NC1)N)O[C@@H](C)C1=C(C(=CC=C1Cl)F)Cl | C24H29Cl2FN6O
